US04904692
Step 5: Preparation of methyl (E)-7-[3-(4-fluorophenyl)bicyclo[3.2.11oct-2-en-2-yl]-3,5-dihydroxyhept-6-enoate
To a solution of methyl (E)-7-[3-(4-fluorophenyl)bicyclo[3.2.1]oct-2-en-2-yl]-5-hydroxy-3-oxohept-6-enoate (2.85 g, 7.65 mmoles) in 12 ml anhydrous THF was added triethylborane (11.5 ml of a IM THF solution, 11.5 mmoles). The mixture was stirred for 5 minutes and cooled to -78° C. Sodium borohydride (0.333 g, 8.8 mmoles) was added followed by the dropwise addition of 5 ml methanol. The mixture was stirred for 60 minutes and quenched with the dropwise addition of aqueous H2O2 (12 ml of 30% H2O2 in 27 ml H2O). The mixture was warmed to 25° C. during 90 minutes and poured into a mixture of ethyl acetate and aqueous HCl. The organic layer was washed with water and brine and dried (MgSO4). Removal of the volatiles in vacuo provided a residue which was purified by HPLC using 60% hexanes in ethyl acetate. The product rich fractions were concentrated in vacuo and provided 1.32 g of the oily product.

reactant | methyl (E)-7-[3-(4-fluorophenyl)bicyclo[3.2.1]oct-2-en-2-yl]-5-hydroxy-3-oxohept-6-enoate | 7.65 mmoles, 2.85 g | FC1=CC=C(C=C1)C1=C(C2CCC(C1)C2)/C=C/C(CC(CC(=O)OC)=O)O | C22H25FO4
reactant | triethylborane | C(C)B(CC)CC | C6H15B
reactant | Sodium borohydride | 8.8 mmoles, 0.333 g | [BH4-].[Na+]
reactant | methanol | 5 ml | CO | CH4O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | methyl (E)-7-[3-(4-fluorophenyl)bicyclo[3.2.11oct-2-en-2-yl]-3,5-dihydroxyhept-6-enoate | 1.32 g | FC1=CC=C(C=C1)C1=C(C2CCC(C1)C2)/C=C/C(CC(CC(=O)OC)O)O | C22H27FO4
